US04678826
1,2-Bis[3-[(N,N-dibenzylamino)oxy]-2,5-dioxopyrrolidin-1-yl]benzene
The procedure of Example 1 is repeated using 5.33 g (25 mmole) of N,N-dibenzylhydroxylamine and 3.35 g (12.5 mmole) of N,N'-ortho-phenylenedimaleimide. The residue is purified by preparative HPLC (Silica gel: 7:3 heptane:ethyl acetate eluent) to give 5.9 g (34%) of a white solid.

reactant | N,N-dibenzylhydroxylamine | 25 mmole, 5.33 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | N,N'-ortho-phenylenedimaleimide | 12.5 mmole, 3.35 g | C1(=C(C=CC=C1)N1C(C=CC1=O)=O)N1C(C=CC1=O)=O | C14H8N2O4
product | 1,2-Bis[3-[(N,N-dibenzylamino)oxy]-2,5-dioxopyrrolidin-1-yl]benzene | 5.9 g, 34% | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)OC1C(N(C(C1)=O)C1=C(C=CC=C1)N1C(C(CC1=O)ON(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)=O | C42H38N4O6
